US07435837B2
(±)-{[7-(2-methylphenyl)-5-phenyl-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine
The title compound was prepared (0.055 g, 70%) following the general procedure of Example 390 as a white solid, hydrochloride salt from (±)-{[7-(2-methylphenyl)-5-phenyl-2,3-dihydro-1-benzofuran-2-yl]methyl}4-methylbenzenesulfonate (0.10 g, 0.21 mmol) and methylamine (0.30 g, 9.8 mmol). mp 232-235° C.

reactant | (±)-{[7-(2-methylphenyl)-5-phenyl-2,3-dihydro-1-benzofuran-2-yl]methyl}4-methylbenzenesulfonate | 0.21 mmol, 0.10 g | CC1=C(C=CC=C1)C1=CC(=CC=2CC(OC21)COS(=O)(=O)C2=CC=C(C=C2)C)C2=CC=CC=C2 | C29H26O4S
reactant | methylamine | 9.8 mmol, 0.30 g | CN | CH5N
product | (±)-{[7-(2-methylphenyl)-5-phenyl-2,3-dihydro-1-benzofuran-2-yl]methyl}methylamine | CC1=C(C=CC=C1)C1=CC(=CC=2CC(OC21)CNC)C2=CC=CC=C2 | C23H23NO
